US07074819B2
Step 1) Synthesis of (3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylamino)nonyl]chroman
4-(9-aminononyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (82.3 mg, 0.17 mmol) was dissolved in 5 ml of methylenechloride under argon atmosphere, which was then cooled down to 0° C. 4,4,5,5,5-pentafluoropentylsulfonyl chloride (110.4 mg, 0.42 mmol) in 1 ml of methylene chloride and triethylamine (0.07 ml, 0.5 mmol) was added thereto, and the mixture was stirred at the same temperature for 30 minutes. The reaction was quenched with water, and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and concentrated. The residue was subject to flash chromatography in silica gel (n-hexane:ethyl acetate=5:1) to give the title compound (81 mg, yield: 67%) as a colorless oil.

reactant | 4-(9-aminononyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 0.17 mmol, 82.3 mg | NCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C29H43NO5
reactant | 4,4,5,5,5-pentafluoropentylsulfonyl chloride | 0.42 mmol, 110.4 mg | FC(CCCS(=O)(=O)Cl)(C(F)(F)F)F | C5H6ClF5O2S
reactant | triethylamine | 0.5 mmol, 0.07 ml | C(C)N(CC)CC | C6H15N
solvent | methylenechloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | (3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylamino)nonyl]chroman | 81 mg, yield: 67% | COCOC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)OCOC)CCCCCCCCCNCCCC(C(F)(F)F)(F)F | C34H48F5NO5
